US04816447
9-(1,3-Diacetoxy-2-propoxymethyl)guanine
A mixture of 50.0 g (0.33 mole) of guanine, 33 g of ammonium sulfate, and 2.2 l of hexamethyldisilazane was stirred at reflux under N2 for 3 days, during which time all of the solid dissolved. The solvent was then removed by distillation under reduced pressure. To the very viscous, orange residual oil was added under N2 84 g (0.34 mole) of acetoxymethyl 1,3-diacetoxy-2-propyl ether, which formed in second liquid phase at the bottom of the flask. The flask was fitted with a distillation adapter, and the mixture was heated under low vacuum in an oil bath at approximately 135°. After an induction period lasting several minutes, boiling began and soon became quite vigorous. Distillation of trimethylsilyl acetate (along with any residual hexamethyldisilazane) proceeded rapidly at first but slowed after 30 minutes. After 2 hours the mixture was added to 1.3 l of 90% EtOH. The mixture was heated to boiling and maintained there until the separated gummy material was transformed to a tractable solid. The solid (8.2 g, consisting almost exclusively of guanine) was removed by filtration while hot. The filtrate was allowed to stand overnight, resulting in separation of an orange-brown gum. The supernatant was decanted away from the gum, filtered, and then concentrated to small volume. The solid which separated on concentration was collected on a filter and washed with H2O, then with some EtOH, to give 15.4 g of cream-colored crystals. By NMR, this material was solely the -alkylated isomer, although TLC indicated partial side chain deactylation. The material was suitable for deprotection without further purification.

reactant | guanine | 0.33 mole, 50.0 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | ammonium sulfate | 33 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | hexamethyldisilazane | 2.2 l | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | acetoxymethyl 1,3-diacetoxy-2-propyl ether | C(C)(=O)OCC(COC(C)=O)OCOC(C)=O | C10H16O7
product | 9-(1,3-Diacetoxy-2-propoxymethyl)guanine | 15.4 g | C(C)(=O)OCC(COC(C)=O)OCN1C=2N=C(NC(C2N=C1)=O)N | C13H17N5O6
